US07786108B2
Step 5. Preparation of (S)-9-[(3,5-Bis-trifluoromethyl-benzyl)-cyano-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester
To a solution of (S)-9-(3,5-bis-trifluoromethyl-benzylamino)-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester (1.75 mmol) in tetrahydrofuran (7 mL) and diisopropyl ethylamine (5.25 mmol), add cyanogenbromide (5.25 mmol) and heat to 65° C. After stirring overnight, cool to room temperature and dilute with ethyl acetate (10 mL). Wash the organic portion with water (10 mL), followed by brine (10 mL). Dry the organic portion over sodium sulfate, filter, and remove solvent under vacuum. Chromatograph the product over silica gel, eluting with ethyl acetate/hexane (5-35%) to afford the title compound as an oil. MS (ES+): 554.2 (M−H).

reactant | (S)-9-(3,5-bis-trifluoromethyl-benzylamino)-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | 1.75 mmol | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3COCC3C=C21)NCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H28F6N2O3
reactant | diisopropyl ethylamine | 5.25 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | cyanogenbromide | 5.25 mmol | N#CBr | CBrN
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (S)-9-[(3,5-Bis-trifluoromethyl-benzyl)-cyano-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]indene-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC[C@@H](C2=CC=3COCC3C=C21)N(C#N)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C27H27F6N3O3
